US07612114B2
6-{4-Methoxy-2-{{4-{2-[(2-methoxyethyl)methylamino]ethoxy}benzyl}methylamino}phenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-{2-[(4-hydroxybenzoyl)methylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (25 mg) and 2-chloro-N-(2-methoxyethyl)-N-methylacetamide (16 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (13 mg) was obtained.

reactant | pivalic acid 6-{2-[(4-hydroxybenzoyl)methylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 25 mg | OC1=CC=C(C(=O)CNC2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C=C1 | C30H33NO5
reactant | 2-chloro-N-(2-methoxyethyl)-N-methylacetamide | 16 mg | ClCC(=O)N(C)CCOC | C6H12ClNO2
product | 6-{4-Methoxy-2-{{4-{2-[(2-methoxyethyl)methylamino]ethoxy}benzyl}methylamino}phenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 13 mg | COC1=CC(=C(C=C1)C1CC=2C=CC(=CC2CC1)O)NCCC1=CC=C(C=C1)OCCN(C)CCOC | C31H40N2O4
